* c:\users\hp\esim-workspace\opamp\opamp.cir

.include lm_741.sub
.include Germanium_Diode.lib
x1 ? net-_r1-pad2_ net-_c1-pad1_ net-_x1-pad4_ ? output net-_x1-pad7_ ? lm_741
rf1  net-_r1-pad2_ output 0k
rl1  gnd output 5k
v2  net-_x1-pad7_ gnd 15
v3  net-_x1-pad4_ gnd -15
* u2  output plot_v1
* u1  input plot_v1
v1  input gnd sine(0 4 50 0 0)
c1  net-_c1-pad1_ gnd 0.01u
d1 input output Germanium_Diode
l1  gnd net-_c1-pad1_ 10m
r1  input net-_r1-pad2_ 1k
.tran 100e-06 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output)
plot v(input)
.endc
.end
